US08030497B2
a) 2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-5-pyridin-2-ylmethyl-1H-benzoimidazole
To a solution of ca. 250 mg of methanesulfonic acid [2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-pyridin-2-yl-methyl ester in 7 ml THF, 50 mg LiAlH4 are added. The mixture is heated to reflux temperature and stirred for 3 h. After that the reaction mixture is allowed to cool to room temperature and 1N NaOH solution is added and this mixture is stirred for 30 min and filtered. The filtrate is extracted with ethyl acetate (3×). The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (CH2Cl2:MeOH=95:5) to afford 40 mg of the title compound as an oil.

reactant | methanesulfonic acid [2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-pyridin-2-yl-methyl ester | ca. 250 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C(C2=NC=CC=C2)OS(=O)(=O)C)OC | C27H31N3O5S
reactant | LiAlH4 | 50 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-5-pyridin-2-ylmethyl-1H-benzoimidazole | 40 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)CC2=NC=CC=C2)OC | C26H29N3O2
